US07208623B2
A mixture of (E)-5-[2-cyclopropyl-4-(4-fluoro-phenyl)-quinolin-3-yl]-3-oxo-pent-4-enoic-acid-ethylester (105.8 mg, 0.262 mmol) and Ru[(1R,2R)-p-TsNCH(C6H5)CH(C6H5)NH](η6-p-cymene) (6.2 mg, 0.104 mmol) in 2-propanol (2.6 ml) is stirred at 23° C. for 72 h. The reaction mixture is concentrated under reduced pressure. The residue is purified by flash chromatography on silica gel using a 4:1 hexane-MTBE (methyl-tert-butyl-ether) mixture as eluent to afford of (E)-5-[2-Cyclopropyl-4-(4-fluoro-phenyl)-quinolin-3-yl]-3-hydroxy-pent-4-enoic-acid-ethylester.

reactant | (E)-5-[2-cyclopropyl-4-(4-fluoro-phenyl)-quinolin-3-yl]-3-oxo-pent-4-enoic-acid-ethylester | 0.262 mmol, 105.8 mg | C(C)OC(CC(\C=C\C=1C(=NC2=CC=CC=C2C1C1=CC=C(C=C1)F)C1CC1)=O)=O | C25H22FNO3
solvent | 2-propanol | 2.6 ml | CC(C)O | C3H8O
product | (E)-5-[2-Cyclopropyl-4-(4-fluoro-phenyl)-quinolin-3-yl]-3-hydroxy-pent-4-enoic-acid-ethylester | C(C)OC(CC(\C=C\C=1C(=NC2=CC=CC=C2C1C1=CC=C(C=C1)F)C1CC1)O)=O | C25H24FNO3
